US08026366B2
To a magnetically stirred mixture of N-(7-benzyloxy-2-propylthiazolo[4,5-c]quinolin-4-yl)-2,2,2-trichloroacetamide (prepared as described above in Part H, 6.96 g, 14.9 mmol) in methanol (100 mL) at rt was added NaOMe (25 wt. % solution in MeOH, 11.3 mL, 52.1 mmol). After a few minutes a solution formed from which a solid precipitated. The reaction mixture was concentrated in vacuo and dried under vacuum. The resulting solid was suspended in a minimal amount of methanol (50 mL) and was isolated by filtration. The solid was washed with methanol to provide 7-benzyloxy-2-propylthiazolo[4,5-c]quinolin-4-amine as a light yellow solid in high purity (3.93 g, 76%), mp 175-178° C. 1H NMR (300 MHz, d6-DMSO) δ 7.67 (d, J=8.7 Hz, 1H), 7.49-7.29 (m, 5H), 7.10 (d, J=2.5 Hz, 1H), 6.96 (dd, J=8.7, 2.5 Hz, 1H), 6.84 (s, 2H), 5.20 (s, 2H), 3.09 (t, J=7.8 Hz, 2H), 1.84 (sextet, J=7.2 Hz, 2H), 0.99 (t, J=7.5 Hz, 3H); 13C NMR (75 MHz, d6-DMSO) δ 169.1, 158.9, 152.4, 146.5, 139.4, 137.0, 136.0, 128.4, 127.8, 127.6, 125.7, 113.3, 113.2, 107.8, 69.3, 35.1, 22.8, 13.5. MS (APCI) m/z=350.0 (M+H) % Anal. calcd for C20H19N3OS: C, 68.74; H, 5.48; N, 12.02. Found: C, 68.62; H, 5.74; N, 11.94.

reactant | N-(7-benzyloxy-2-propylthiazolo[4,5-c]quinolin-4-yl)-2,2,2-trichloroacetamide | 14.9 mmol, 6.96 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)NC(C(Cl)(Cl)Cl)=O)N=C(S3)CCC | C22H18Cl3N3O2S
reactant | NaOMe | 52.1 mmol, 11.3 mL | C[O-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 7-benzyloxy-2-propylthiazolo[4,5-c]quinolin-4-amine | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(S3)CCC | C20H19N3OS
